US04245107
412 mg. of 2-methyl-1,3,4-thiadiazol-5-ylsulfinylacetic acid and 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 124 mg. of 7-(2-methyl-1,3,4-thiadiazol-5-ylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylic acid were obtained.

reactant | 2-methyl-1,3,4-thiadiazol-5-ylsulfinylacetic acid | CC(C(=O)O)S(=O)C1=NN=CS1 | C5H6N2O3S2
reactant | 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
product | 7-(2-methyl-1,3,4-thiadiazol-5-ylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylic acid | CC(C(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O)S(=O)C1=NN=CS1 | C13H13N7O5S3
